US05123953
1-Benzylthio-2-phenyl-2-propene (13.2 g, 0.055 moles) is dissolved in methanol (300 cc) and water (300 cc). Oxone (36.9 g, 0.12 moles as HKSO5) is added portionwise and the mixture is stirred at ambient temperature for three hours. The reaction mixture is diluted with water (1,000 cc), pentane (100 cc) is added, and the mixture is stirred vigorously until crystallization takes place. White crystals of 1-benzylsulphonyl-2-phenyl-2-propene (10.7 g, 72%) are obtained by filtration followed by drying. Mp=118° C.

reactant | 1-Benzylthio-2-phenyl-2-propene | 0.055 moles, 13.2 g | C(C1=CC=CC=C1)SCC(=C)C1=CC=CC=C1 | C16H16S
reactant | Oxone | 0.12 moles, 36.9 g | OOS(=O)[O-].[K+]
reactant | water | 300 cc | O | H2O
reactant | water | 1,000 cc | O | H2O
solvent | methanol | 300 cc | CO | CH4O
solvent | pentane | 100 cc | CCCCC | C5H12
product | 1-benzylsulphonyl-2-phenyl-2-propene | 10.7 g, 72% | C(C1=CC=CC=C1)S(=O)(=O)CC(=C)C1=CC=CC=C1 | C16H16O2S
